US06747023B1
4-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazin-2-yl]carbonyl]morpholine hydrochloride
Starting materials: lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate, 4-[[1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-3-yl]carbonyl]morpholine trifluoroacetate

reactant | lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | CC1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+]
reactant | 4-[[1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-3-yl]carbonyl]morpholine trifluoroacetate | FC(C(=O)O)(F)F.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)C(=O)N1CCOCC1
product | 4-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazin-2-yl]carbonyl]morpholine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(=O)N1CCOCC1 | InChI=1S/C27H30ClN5O5S2.ClH/c1-17-12-22-24(15-29-17)39-25(30-22)27(35)33-7-6-32(16-23(33)26(34)31-8-10-38-11-9-31)40(36,37)21-5-3-18-13-20(28)4-2-19(18)14-21;/h2-5,13-14,17,23,29H,6-12,15-16H2,1H3;1H
